US06486141B2
Step 1 tert-butyl 4′-methyl[1,1 biphenyl]-3-carboxylate
A mixture of 4-methylphenylboronic acid (0.65 g, 4.3 mmol), t-butyl-3-iodobenzoate (0.87 g, 2.86 mmol), K2CO3 (0.59 g, 4.3 mmol), and (Ph3P)4 Pd (0.17 g, 0.14 mmol) in DME (15 mL) was degassed and flushed with N2 before being brought to reflux for 2 h. Following a standard aqueous/EtOAc work-up, the residue was triturated with 1:10 EtOAc/hexane. The excess boronic acid was removed by filtration, and the filtrate was concentrated to give an oil which was purified by flash chromatography (hexane) to give an oil (0.6 g). This material (≈60% pure) was used as such for the next step.

reactant | 4-methylphenylboronic acid | 4.3 mmol, 0.65 g | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | t-butyl-3-iodobenzoate | 2.86 mmol, 0.87 g | C(C)(C)(C)OC(C1=CC(=CC=C1)I)=O | C11H13IO2
reactant | K2CO3 | 4.3 mmol, 0.59 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DME | 15 mL | COCCOC | C4H10O2
catalyst | (Ph3P)4 Pd | 0.14 mmol, 0.17 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4′-methyl[1,1 biphenyl]-3-carboxylate | 0.6 g | CC1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)OC(C)(C)C | C18H20O2
